US04971993
L-alanyl-L-proline (1.86 g, 10 mmole) was dissolved in 1N aqueous sodium hydroxide (10 ml)-dioxane (5 ml), and dioxane (5 ml) solution of α-naphthalenesulfonylchloride (2.26 g, 10 mmole) was added dropwise to the solution while cooling with ice and stirring while keeping pH value thereof to between 10 and 11 with 1N aqueous sodium hydroxide. After the addition, the mixture was stirred further for 2 hours at room temperature. Water (20 ml) was added thereto and the mixture thus obtained was washed with diethyl ether (40 ml). The water layer was filtered and the filtrate thus obtained was adjusted to pH 2.0 with 1N aqueous hydrochloric acid while cooling with ice and stirring and extracted with ethyl acetate (100 ml). The ethyl acetate was washed with 1N aqueous hydrochloric acid (50 ml) and dried over anhydrous magnesium sulfate. The solution was concentrated under reduced pressure and crystallized by cooling with ice to give N-α-naphthalenesulfonyl-L-alanyl-L-proline[yield: 1.77 g, 47.0%).

reactant | L-alanyl-L-proline | 10 mmole, 1.86 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | α-naphthalenesulfonylchloride | 10 mmole, 2.26 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | Water | 20 ml | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-α-naphthalenesulfonyl-L-alanyl-L-proline | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C18H20N2O5S
